US04017627
Preparation of 5-acetyl-7-bromo-8-methoxycarbonyloxyquinoline.
26.6 g of 5-acetyl-7-bromo-8-hydroxyquinoline are dissolved in 200 ml of tetrahydrofurane, 11 g of triethylamine are added and 9.5 g of chloroformic acid methyl ester, diluted in 50 ml of tetrahydrofurane, are added dropwise, whilst stirring and cooling. When the exothermic reaction has ended, the triethylamine hydrochloride which has separated out is removed by filtration and the clear filtrate is evaporated.

reactant | 5-acetyl-7-bromo-8-hydroxyquinoline | 26.6 g | C(C)(=O)C1=C2C=CC=NC2=C(C(=C1)Br)O | C11H8BrNO2
reactant | triethylamine | 11 g | C(C)N(CC)CC | C6H15N
reactant | chloroformic acid methyl ester | 9.5 g | COC(=O)Cl | C2H3ClO2
solvent | tetrahydrofurane | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
product | 5-acetyl-7-bromo-8-methoxycarbonyloxyquinoline | C(C)(=O)C1=C2C=CC=NC2=C(C(=C1)Br)OC(=O)OC | C13H10BrNO4
